US06759493B1
Preparation of (Cyclopentadienyl) (2-Pyridinoxy) Titanium Dichloride
To a solution of 0.002 moles of cyclopentadienyl titanium trichloride in 50 mL of ether a solution of 2-hydroxy pyridine (0.002 moles) and triethylamine (0.002 moles) in 50 mL of ether was added at 0° C. and stirred overnight. The product was recovered from the ether filtrate. The product has the formula:

reactant | cyclopentadienyl titanium trichloride | 0.002 moles | [Cl-].[Cl-].[Cl-].C1(C=CC=C1)[Ti+3]
reactant | 2-hydroxy pyridine | 0.002 moles | OC1=NC=CC=C1 | C5H5NO
reactant | triethylamine | 0.002 moles | C(C)N(CC)CC | C6H15N
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | ether | 50 mL | CCOCC | C4H10O
product | (Cyclopentadienyl) (2-Pyridinoxy) Titanium Dichloride | [Cl-].[Cl-].C1(C=CC=C1)[Ti+2]OC1=NC=CC=C1 | InChI=1S/C5H5NO.C5H5.2ClH.Ti/c7-5-3-1-2-4-6-5;1-2-4-5-3-1;;;/h1-4H,(H,6,7);1-5H;2*1H;/q;;;;+3/p-3
